US07223766B2
A suspension of 2-(5-chloro-2-fluorophenyl)-5-methyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol (200 mg, 0.72 mmol, 1 eq) in POCl3 (5 ml) was stirred under reflux for 1 h. The solution was then cooled to room temperature and concentrated under reduced pressure to give a white solid. The residual POCl3 was removed by azeotrope with chloroform. To a suspension of the crude iminochloride in a 57% HI solution in water (5 ml) at rt was added NaI (540 mg, 3.60 mmol, 5 eq). The reaction mixture was stirred at rt overnight and then poured onto ice. The product was extracted with chloroform and the aqueous layer was neutralized with NaHCO3 and extracted further with chloroform. The organic layers were combined washed with brine, dried (MgSO4), filtered and evaporated in vacuo to provide a crude residue 2-(5-chloro-2-fluorophenyl)-4-iodo-5-methyl-6,7-dihydro-5H-cyclopentapyrimidine which was not further purified.

reactant | 2-(5-chloro-2-fluorophenyl)-5-methyl-6,7-dihydro-5H-cyclopentapyrimidin-4-ol | 0.72 mmol, 200 mg, 1 eq | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)O)C(CC2)C)F | C14H12ClFN2O
reactant | NaI | 3.60 mmol, 540 mg, 5 eq | [Na+].[I-]
solvent | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-(5-chloro-2-fluorophenyl)-4-iodo-5-methyl-6,7-dihydro-5H-cyclopentapyrimidine | ClC=1C=CC(=C(C1)C1=NC2=C(C(=N1)I)C(CC2)C)F | C14H11ClFIN2
